* C:\Users\Guenther\Desktop\schoool_UNL\term_6\ECEN 307\Lab-Project-1\wizard staff\working\working zvs driver CW flyback protection.asc
* Generated by LTspice 24.1.4 for Windows.
V3 N012 0 PULSE(0 12 0 0n 0n 250m 500m)
R9 N014 N001 470
R10 N019 N001 470
R11 N016 N014 10k
R12 N019 N016 10k
D86 N016 N014 UDZV12B
D87 N016 N019 UDZV12B
D88 N019 N006 1N4148
D89 N014 N005 1N4148
M3 N011 N014 N017 N017 IRFZ44N
C82 N006 N005 500n
L6 N002 N006 220µ
L7 N015 N018 5µ
M4 N020 N019 N017 N017 IRFZ44N
R14 N006 N015 100m
R15 N018 N005 100m
R2 N002 N001 100m
R3 N006 N011 .001m
R4 N005 N020 .001m
R5 N017 N016 .001m
L1 N002 N005 220µ
D11 P001 N002 D
D12 P002 N002 D
R1 P002 N006 100k
R6 P001 N005 100k
X§U1 N010 N007 N001 0 N009 LT1001
C1 N010 0 200µ
R7 N012 N010 1.5k
D1 N010 N012 D
R8 N008 0 2k
R13 N003 N008 6k
V1 N003 0 12
X§U2 N008 N004 N001 0 N004 LT1001
M1 N016 N013 0 0 IRFH5007
R16 N001 N003 10m
R18 N007 N004 10m
R17 N013 0 10k
L2 N009 N013 100µ
R19 N009 N013 100
.model D D
.lib C:\Users\Guenther\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Guenther\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3
.lib LTC.lib
.backanno
.end
